US04024139
Preparation of 8-chloro-2,3,4,4a-tetrahydro-10H-1,2-oxazino (3,2-b)(1,3)benzoxazin-10-one
A mixture of 10 g. of crude 6-chloro-2-(3-chloropropyl)-2,3-dihydro-3-hydroxy-4H-1,3-benzoxazin-4-one prepared in the manner hereinbefore described and 50 ml. of 15 percent aqueous solution of ammonium hydroxide was stirred for 5 hours at room temperature and then filtered and washed with water. The crude product (6 g.) was recrystallized from 45 ml. of ethanol yielding 3.8 g., m-p. 148°-149° C.

reactant | 6-chloro-2-(3-chloropropyl)-2,3-dihydro-3-hydroxy-4H-1,3-benzoxazin-4-one | ClC=1C=CC2=C(C(N(C(O2)CCCCl)O)=O)C1 | C11H11Cl2NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 8-chloro-2,3,4,4a-tetrahydro-10H-1,2-oxazino (3,2-b)(1,3)benzoxazin-10-one | ClC=1C=CC2=C(C(N3C(O2)CCCO3)=O)C1 | C11H10ClNO3
